US07968538B2
1-(6-Chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethanone
1-(6-Chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethanol (258 mg, 1.20 mmol) was dissolved in 4 mL of dichloromethane. PCC (648 mg, 3.00 mmol) was added portionwise and the mixture was stirred for 16 h (reaction is likely to be completed earlier). Diethyl ether (20 mL) was added and stirred for 10 minutes. The heterogeneous mixture was filtered through a plug of celite. The solvent was removed by rotary evaporation to collect the desired product (248 mg, 97%). 1H NMR (400 MHz, CDCl3): δ 7.28 (d, 1H), 7.01 (d, 1H), 4.33 (m, 4H), 2.59 (s, 3H).

reactant | 1-(6-Chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethanol | 1.20 mmol, 258 mg | ClC1=CC2=C(OCCO2)C(=C1)C(C)O | C10H11ClO3
reactant | PCC | 3.00 mmol, 648 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | Diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 1-(6-Chloro-2,3-dihydrobenzo[b][1,4]dioxin-8-yl)ethanone | ClC1=CC2=C(OCCO2)C(=C1)C(C)=O | C10H9ClO3
